US07470679B2
tert-butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperidine-1-carboxylate
tert-Butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate (240 mg, 0.93 mmol) was dissolved in tetrahydrofuran (7 mL). Mixture was cooled to −78° C. A 0.5 M solution of potassium bistrimethylsilyl)amide in toluene (2.2 mL, 1.1 mmol) was added to the mixture drop-wise. Reaction stirred at −78° C. for 20 minutes. A solution of 2-nitrobenzylbromide (240 mg, 1.1 mmol) in tetrahydrofuran (2 mL) was added to the reaction mixture drop-wise. Reaction stirred at −78° C. for 40 minutes. Dry ice bath was removed and the reaction mixture was allowed to warm to room temperature over 30 minutes. Reaction was quenched with aqueous ammonium chloride. Mixture was extracted with ethyl acetate (2×20 mL). Combined extracts were dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as yellow oil in 41% yield. MS m/e (M−C4H8+H)+=337.3.

reactant | tert-Butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate | 0.93 mmol, 240 mg | COC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO4
reactant | toluene | 1.1 mmol, 2.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-nitrobenzylbromide | 1.1 mmol, 240 mg | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(1-methoxy-3-(2-nitrophenyl)-1-oxopropan-2-yl)piperidine-1-carboxylate | 41% yield | COC(C(CC1=C(C=CC=C1)[N+](=O)[O-])C1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H28N2O6
